US07951951B2
27.50 g (91.3 mmol) of 4-[(3-chloropropyl)[(6-chloropyridin-3-yl)methyl]amino]furan-2(5H)-one (I-2) and 51.60 g (344.2 mmol) of sodium iodide in 1.2 l of acetonitrile are heated under reflux for 4 hours. Concentration of the organic phase under reduced pressure and purification of the residue by column chromatography on silica gel (silica gel 60, Merck, particle size: 0.04 to 0.063 mm) using the mobile phase ethyl acetate gives 31.5 g of 4-[[(6-chloropyridin-3-yl)methyl](3-iodopropyl)amino]furan-2(5H)-one.

reactant | 4-[(3-chloropropyl)[(6-chloropyridin-3-yl)methyl]amino]furan-2(5H)-one | 91.3 mmol, 27.50 g | ClCCCN(C1=CC(OC1)=O)CC=1C=NC(=CC1)Cl | C13H14Cl2N2O2
reactant | sodium iodide | 344.2 mmol, 51.60 g | [I-].[Na+]
solvent | acetonitrile | 1.2 l | C(C)#N | C2H3N
product | 4-[[(6-chloropyridin-3-yl)methyl](3-iodopropyl)amino]furan-2(5H)-one | 31.5 g | ClC1=CC=C(C=N1)CN(C1=CC(OC1)=O)CCCI | C13H14ClIN2O2
